US04714492
3.45 gms of 1-methyl-2,6-di(4'-fluorophenyl)-4-oxonicotinic acid was mixed with 0.445 gms of NaOH and 70 mls of methanol. Evaporation of the solvent provided 3.1 gms of sodium 1-methyl-2,6-di(4'-fluorophenyl)-4-oxonicotinate as a glassy solid.

reactant | 1-methyl-2,6-di(4'-fluorophenyl)-4-oxonicotinic acid | 3.45 gms | CN1C(=C(C(=O)O)C(C=C1C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F | C19H13F2NO3
reactant | NaOH | 0.445 gms | [OH-].[Na+]
solvent | methanol | 70 mls | CO | CH4O
product | sodium 1-methyl-2,6-di(4'-fluorophenyl)-4-oxonicotinate | 3.1 gms | CN1C(=C(C(=O)[O-])C(C=C1C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F.[Na+] | InChI=1S/C19H13F2NO3.Na/c1-22-15(11-2-6-13(20)7-3-11)10-16(23)17(19(24)25)18(22)12-4-8-14(21)9-5-12;/h2-10H,1H3,(H,24,25);/q;+1/p-1
